US05094682
1-(4,6-Dimethoxypyrimidin-2-yl)-N-(6-nitro-2-propargyloxyphenyl)-1H-1,2,4-triazole-3-sulphonamide
A mixture of 3.23 g (10 mmol) N-(6-nitro-2-propargyloxyphenyl)-1H-1,2,4-triazole-3-sulphonamide and 2.76 g (20 mmol) potassium carbonate in 25 ml dimethylformamide was heated under a protective gas for 10 minutes at 50° C. After cooling to 0° C. and addition of 2.18 g (10 mmol) 4,6-dimethoxy-2-methylsulphonylpyrimidine, the mixture was warmed and stirred for 20 hours. It was then stirred into to 300 ml ice-cold saturated aqueous sodium chloride and acidified with hydrochloric acid (pH 4). The crystals were removed by suction filtration and purified by silica gel chromatography using a mixture of hexane and ethyl acetate (0 to 100% ethyl acetate).

reactant | N-(6-nitro-2-propargyloxyphenyl)-1H-1,2,4-triazole-3-sulphonamide | 10 mmol, 3.23 g | [N+](=O)([O-])C1=CC=CC(=C1NS(=O)(=O)C1=NNC=N1)OCC#C | C11H9N5O5S
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,6-dimethoxy-2-methylsulphonylpyrimidine | 10 mmol, 2.18 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | hydrochloric acid | pH 4 | Cl | ClH
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(4,6-Dimethoxypyrimidin-2-yl)-N-(6-nitro-2-propargyloxyphenyl)-1H-1,2,4-triazole-3-sulphonamide | COC1=NC(=NC(=C1)OC)N1N=C(N=C1)S(=O)(=O)NC1=C(C=CC=C1[N+](=O)[O-])OCC#C | C17H15N7O7S
